US06468998B1
Quinuclidine-2-carbonyl chloride and (S)-3-amino-1-(2-(4-fluorophenyl)ethyl)pyrrolidine were reacted under the same conditions as in Example 53 to give (S)-N-(1-(2-(4-fluorophenyl)ethyl)pyrrolidin-3-yl)-quinuclidine-2-carboxamide.

reactant | Quinuclidine-2-carbonyl chloride | N12C(CC(CC1)CC2)C(=O)Cl | C8H12ClNO
reactant | (S)-3-amino-1-(2-(4-fluorophenyl)ethyl)pyrrolidine | N[C@@H]1CN(CC1)CCC1=CC=C(C=C1)F | C12H17FN2
product | (S)-N-(1-(2-(4-fluorophenyl)ethyl)pyrrolidin-3-yl)-quinuclidine-2-carboxamide | FC1=CC=C(C=C1)CCN1CC(CC1)NC(=O)[C@H]1N2CCC(C1)CC2 | C20H28FN3O
